US08748613B2
(R)-quinuclidin-3-yl 2-(4-chlorophenyl)-2-(piperidin-1-yl)acetate (100 mg, 0.28 mmol) and 2-bromo-1-phenylethanone (60.3 mg, 0.30 mmol) were dissolved in acetonitrile (4 ml) and stirred at room temperature for 16 hours. The solvent was evaporated and the resulting residue was purified by flash chromatography (DCM/MeOH=9/1) to obtain (3R)-3-(2-(4-chlorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide (98 mg, 63.3% yield) as white powder.

reactant | (R)-quinuclidin-3-yl 2-(4-chlorophenyl)-2-(piperidin-1-yl)acetate | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27ClN2O2
reactant | 2-bromo-1-phenylethanone | 0.30 mmol, 60.3 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(4-chlorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 98 mg, 63.3% yield | [Br-].ClC1=CC=C(C=C1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)N2CCCCC2 | InChI=1S/C28H34ClN2O3.BrH/c29-24-11-9-23(10-12-24)27(30-15-5-2-6-16-30)28(33)34-26-20-31(17-13-22(26)14-18-31)19-25(32)21-7-3-1-4-8-21;/h1,3-4,7-12,22,26-27H,2,5-6,13-20H2;1H/q+1;/p-1/t22?,26-,27?,31?;/m0./s1
